US04868162
A solution was obtained by dissolving 250 mg (1.01 m mole) of 5-fluoro-2'-deoxyuridine in 10 ml of pyridine anhydride and 590 mg (2.2 m mole) of octanoic acid anhydride and 1.2 mg (0.01 m mole) of dimethylaminopyridine were added thereto with stirring on the ice bath. The mixture was then stirred at room temperature overnight. The reaction mixture was poured into 50 ml of ice water and stirred for 30 minutes. Thereafter, 2N HCl was added to the reaction mixture to adjust its pH value to 4.0 and was then extracted three times with 20 ml of ethyl acetate. Ethyl acetate was removed by distillation at room temperature under reduced pressure and the obtained crude product was dissolved in dichloromethane and subjected to column chromatography on silica gel. The eluates from dichloromethane-ethanol (97:3)-(96:4) were collected and concentrated to obtain 3',5'-dioctanoyl-5-fluoro-2'-deoxyuridine.

reactant | 5-fluoro-2'-deoxyuridine | 250 mg | FC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11FN2O5
reactant | octanoic acid anhydride | 590 mg | C(CCCCCCC)(=O)OC(CCCCCCC)=O | C16H30O3
reactant | dimethylaminopyridine | 1.2 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | HCl | 2N | Cl | ClH
reactant | dichloromethane ethanol | ClCCl.C(C)O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3',5'-dioctanoyl-5-fluoro-2'-deoxyuridine | C(CCCCCCC)(=O)[C@@]1(C[C@@H](O[C@@H]1C(O)C(CCCCCCC)=O)N1C(=O)NC(=O)C(=C1)F)O | C25H39FN2O7
